US07230128B2
Preparation of 1-bromo-2-(fluorenyl)ethane′
In this reaction, 8.3 g (0.05 m) of fluorene was dissolved in 150 ml of tetrahydrofuran. Then 31.8 ml (0.05 m) of butyl lithium (1.6 molar in hexane) was added dropwise to this solution. After one hour, this solution was added gradually to a stirred solution of 9 ml (0.1 m) of dibromoethane in 300 ml of pentane within 2 hours. Then the reaction mixture was treated with 50 ml of an

reactant | fluorene | 8.3 g | C1=CC=CC=2C3=CC=CC=C3CC12 | C13H10
reactant | butyl lithium | 1.6 molar, 31.8 ml | C(CCC)[Li]
reactant | dibromoethane | 9 ml | BrC(C)Br | C2H4Br2
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | pentane | 300 ml | CCCCC | C5H12
product | 1-bromo-2-(fluorenyl)ethane | BrCCC1=CC=CC=2C3=CC=CC=C3CC12 | C15H13Br
